US05641765
(i). 3-(fluorosulfonyloxy)-androsta-3,5-diene-17β-carboxylic acid
A solution of androsta-4-en-3-one-17β-carboxylic acid, 2,6-di-t-butyl-4-methyl pyridine and fluorosulfonic anhydride in methylene chloride is stirred at 5° C. for 20 hours. The reaction mixture is washed with aqueous hydrochloric acid and water. The organic phase is concentrated and the resulting residue is purified by column chromatography to yield the title compound.

reactant | androsta-4-en-3-one-17β-carboxylic acid | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)O | C20H28O3
reactant | 2,6-di-t-butyl-4-methyl pyridine | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | fluorosulfonic anhydride | FS(=O)(=O)OS(=O)(=O)F | F2O5S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(fluorosulfonyloxy)-androsta-3,5-diene-17β-carboxylic acid | FS(=O)(=O)OC1=CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)O | C20H27FO5S
